US04055597
A mixture of (3S)-1-octyn-3-ol (63 g., 0.5 mole) and dihydropyran (63 g., 0.75 mole) is cooled to 5° in an ice bath and stirred while concentrated sulfuric acid (0.5 ml.) is added dropwise. The resulting solution is allowed to warm to room temperature and stand for 24 hours. The solution is then treated with solid anhydrous sodium carbonate, filtered, and distilled to yield (3S)-3-(2-tetrahydropyranyloxy)-1-octyne.

reactant | (3S)-1-octyn-3-ol | 0.5 mole, 63 g | C#C[C@H](CCCCC)O | C8H14O
reactant | dihydropyran | 0.75 mole, 63 g | O1CCCC=C1 | C5H8O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (3S)-3-(2-tetrahydropyranyloxy)-1-octyne | O1C(CCCC1)O[C@H](C#C)CCCCC | C13H22O2
